US05281626
The N-(4-piperidyl)-4-(N-acetyl-N methylamino)benzenesulfonamide acetate (3.71 g, 10.6 mmol) prepared in Preparative Example 17 was dissolved in a suspension of sodium hydrogencarbonate (2.52 g) and potassium iodide (3.32 g) in dimethylformamide (50 ml), followed by the addition of 2-bromoethylbenzene (1.49 ml, 11.0 mmol). The obtained mixture was stirred at 70° C. for 3 hours, followed by the addition of water. The obtained mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of common salt, dried over magnesium sulfate, and concentrated to give N-[1-(2-phenylethyl)-4-piperidyl]-4-(N-acetyl-N-methylamino)benzenesulfonamide as a colorless oil (3.19 g, yield: 77%).

reactant | N-(4-piperidyl)-4-(N-acetyl-N methylamino)benzenesulfonamide acetate | 10.6 mmol, 3.71 g | C(C)(=O)O.N1CCC(CC1)NS(=O)(=O)C1=CC=C(C=C1)N(C)C(C)=O
reactant | potassium iodide | 3.32 g | [I-].[K+]
reactant | 2-bromoethylbenzene | 11.0 mmol, 1.49 ml | BrCCC1=CC=CC=C1 | C8H9Br
reactant | water | O | H2O
solvent | sodium hydrogencarbonate | 2.52 g | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-[1-(2-phenylethyl)-4-piperidyl]-4-(N-acetyl-N-methylamino)benzenesulfonamide | 3.19 g, yield: 77% | C1(=CC=CC=C1)CCN1CCC(CC1)NS(=O)(=O)C1=CC=C(C=C1)N(C)C(C)=O | C22H29N3O3S
